US07326786B2
Similar procedure as described in example 67(a) was used, starting from cyclopropylmethylamine, rhodanine (2-thioxo-4-thiazolidinone), mercuric chloride and DIEA to give 2-cyclopropylmethylamino-thiazol-4-one. LC-MS m/e 171 (MH+).

reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
reactant | rhodanine | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-cyclopropylmethylamino-thiazol-4-one | C1(CC1)CNC=1SCC(N1)=O | C7H10N2OS
